US04210749
A solution of p-toluenesulfonyl chloride (28.8 gm., 0.15 M) in benzene (100 ml.) was added dropwise to a solution of 2-(3-methoxyphenyl)-1-methylethylamine (23 gm., 0.139 M) and triethylamine (13 gm., 0.15 M) in benzene (200 ml.) during 30 minutes. The reaction was stirred at room temperature for 4 hours. The precipitated triethylamine hydrochloride was filtered off and the benzene solution was washed with hydrochloric acid (3 N), water and saturated brine. The benzene solution was dried over magnesium sulfate. Evaporation of the solvent afforded N-toluene-p-sulfonyl-2-(3-methoxyphenyl)-1-methylethylamine as an oil. Wt=42 gm.

reactant | p-toluenesulfonyl chloride | 0.15 M, 28.8 gm | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(3-methoxyphenyl)-1-methylethylamine | 0.139 M, 23 gm | COC=1C=C(C=CC1)CC(C)N | C10H15NO
reactant | triethylamine | 0.15 M, 13 gm | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-toluene-p-sulfonyl-2-(3-methoxyphenyl)-1-methylethylamine | C1(=CC=C(C=C1)S(=O)(=O)NC(CC1=CC(=CC=C1)OC)C)C | C17H21NO3S
